US07691882B2
3-(3-(5-(4-Fluoro-benzyl)-furan-2-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of 3-ethynyl-pyridin-2,6-diamine (50 mg, 0.376 mmol) described in Manufacturing Example 13-1-3 and (5-(4-fluorobenzyl)-furan-2-yl)acetohydroximoyl chloride (161 mg, 0.602 mmol) described in Manufacturing Example 208-1-5 was added triethylamine (131 μL, 0.94 mmol), which was stirred for 19 hours at room temperature. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:1, then ethyl acetate) to obtain the title compound (45 mg, 33%).

reactant | 3-ethynyl-pyridin-2,6-diamine | 0.376 mmol, 50 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | (5-(4-fluorobenzyl)-furan-2-yl)acetohydroximoyl chloride | 0.602 mmol, 161 mg | FC1=CC=C(CC2=CC=C(O2)CC(=NO)Cl)C=C1 | C13H11ClFNO2
reactant | triethylamine | 0.94 mmol, 131 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(5-(4-Fluoro-benzyl)-furan-2-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 45 mg, 33% | FC1=CC=C(CC2=CC=C(O2)CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C20H17FN4O2
